US07186749B2
Step 2: {[6-(1-Benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetic acid.
A mixture of methyl {[6-(1-benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetate (0.250 g, 0.559 mmol), prepared in the previous step, and 1N NaOH (0.84 mL, 0.84 mmol) in 1:1:1 THF:MeOH:water (30 mL) was stirred at ambient temperature for 10 minutes. The volatiles were removed under reduced pressure (without the application of heat). The residue was partitioned between 0.1N HCl and EtOAc. The layers were separated and the aqueous layer was extracted one time with EtOAc. The combined extracts were dried (MgSO4), filtered and the solvent removed under reduced pressure to give the title compound as a pale-yellow solid (0.23 g, 95%), mp 171–172° C. Elemental Analysis for C29H23NO3.0.17 H2O Calc'd: C, 79.79; H, 5.39; N, 3.21. Found: C, 79.88; H, 5.37; N, 2.96.

reactant | methyl {[6-(1-benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetate | 0.559 mmol, 0.250 g | C(C1=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OCC(=O)OC | C30H25NO3
reactant | NaOH | 0.84 mmol, 1N, 0.84 mL | [OH-].[Na+]
reactant | THF | C1CCOC1 | C4H8O
reactant | MeOH | CO | CH4O
solvent | water | 30 mL | O | H2O
product | {[6-(1-Benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetic acid | 0.23 g, 95% | C(C1=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OCC(=O)O | C29H23NO3
